### PR TITLE
[Merged by Bors] - feat: port Analysis.Normed.Group.SemiNormedGroupCat

### PR DESCRIPTION
**Pull request by nick-kuhn**
---

Started port for SemiNormedGroup

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 1]
```diff
@@ -117,24 +162,31 @@ def SemiNormedGroup₁ : Type (u + 1) :=
...
+instance : CoeSort SemiNormedGroup₁ (Type _) where
+  coe X := X.α
+
 
-instance : LargeCategory.{u} SemiNormedGroup₁ where
-  hom X Y := { f : NormedAddGroupHom X Y // f.NormNoninc }
-  id X := ⟨NormedAddGroupHom.id X, NormedAddGroupHom.NormNoninc.id⟩
-  comp X Y Z f g := ⟨(g : NormedAddGroupHom Y Z).comp (f : NormedAddGroupHom X Y), g.2.comp f.2⟩
+--Porting Note: Was explicitly shown before. Is there a problem doing it like this?
+deriving instance LargeCategory for SemiNormedGroup₁
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: This has broken the file,`deriving` is finding an instance different to the old one.

Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Thanks! Reverted to there.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 2]
```diff
@@ -0,0 +1,307 @@
...
+--Porting note: deriving fails for ConcreteCategory, adding instance manually.
+--deriving instance LargeCategory, ConcreteCategory for SemiRingCat
+instance : ConcreteCategory SemiNormedGroup := by
+  dsimp [SemiNormedGroup]
+  infer_instance
+
+--Porting Note: hasCoeToSort doesn't exist anymore
+--instance : CoeSort SemiNormedGroup (Type u) :=
+--  Bundled.hasCoeToSort
+
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:57]:
```suggestion
```
This has just been replaced by the next declaration.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 3]
```diff
@@ -0,0 +1,307 @@
...
+instance ofUnique (V : Type u) [SeminormedAddCommGroup V] [i : Unique V] :
+    Unique (SemiNormedGroup.of V) :=
+  i
+#align SemiNormedGroup.of_unique SemiNormedGroup.ofUnique
+
+/--porting note: originally empty, which didn't work. Notation for composition changed?-/
+instance : Limits.HasZeroMorphisms.{u, u + 1} SemiNormedGroup where
+  Zero _ _ := NormedAddGroupHom.zero
+  comp_zero _ _ := rfl
+  zero_comp _ _ _ f:= NormedAddGroupHom.comp_zero f
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:102]:
```suggestion
  zero_comp _ _ _ f := NormedAddGroupHom.comp_zero f
```

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 4]
```diff
@@ -0,0 +1,307 @@
...
+  rfl
+#align SemiNormedGroup.zero_apply SemiNormedGroup.zero_apply
+
+--/--porting note :Added, Needed to make isZero_of_subsingleton work -/
+-- instance {V W : SemiNormedGroup}: ZeroHomClass (V ⟶ W) V W where
+--   coe := NormedAddGroupHom.toFun
+--   coe_injective' := NormedAddGroupHom.coe_injective
+--   map_zero f := by simp only [NormedAddGroupHom.toFun_eq_coe, map_zero]
+
+/--porting note: Didn't work, manual rewrite-/
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:116]: Sorry, could you give more context in your porting notes? What didn't work?

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 5]
```diff
@@ -0,0 +1,307 @@
...
+theorem zero_apply {V W : SemiNormedGroup} (x : V) : (0 : V ⟶ W) x = 0 :=
+  rfl
+#align SemiNormedGroup.zero_apply SemiNormedGroup.zero_apply
+
+--/--porting note :Added, Needed to make isZero_of_subsingleton work -/
+-- instance {V W : SemiNormedGroup}: ZeroHomClass (V ⟶ W) V W where
+--   coe := NormedAddGroupHom.toFun
+--   coe_injective' := NormedAddGroupHom.coe_injective
+--   map_zero f := by simp only [NormedAddGroupHom.toFun_eq_coe, map_zero]
+
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:115]: What's the status here?

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 4 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:116]: Some resolutions and simps didn't go through, so I made the existing proof more explicit.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 5 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Turned out to be unnecessary, deleted.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 4 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Changed the note to reflect this.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 6]
```diff
@@ -0,0 +1,297 @@
...
+  comp_zero _ _ := rfl
+  zero_comp _ _ _ f := NormedAddGroupHom.comp_zero f
+
+
+@[simp]
+theorem zero_apply {V W : SemiNormedGroup} (x : V) : (0 : V ⟶ W) x = 0 :=
+  rfl
+#align SemiNormedGroup.zero_apply SemiNormedGroup.zero_apply
+
+/--Porting note: Had to add some proof steps -/
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:106]: I won't insist that it happen here, but it is *super* helpful if you can include the original proof in a comment. It makes it much easier if someone wants to try to diagnose it later (or indeed just wants to classify what sort of failure it was).

Comment (semorrison) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:106]: As in, why did you have to add some steps? Was it a problem with `simp`? unification? typeclass search?

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 7]
```diff
@@ -0,0 +1,297 @@
...
+-- Porting note : removed `simp` attribute for not being simp normal form
+theorem coe_comp {M N K : SemiNormedGroup₁} (f : M ⟶ N) (g : N ⟶ K) : (f ≫ g : M → K) = g ∘ f :=
+  rfl
+#align SemiNormedGroup₁.coe_comp SemiNormedGroup₁.coe_comp
+
+/--Porting Note: Added to make `coe_comp'` work -- might cause double coercions-/
+instance coeToNormedAddGroupHom {M N : SemiNormedGroup₁} : Coe (M ⟶ N) (NormedAddGroupHom M N) :=
+  ⟨fun f => f.1⟩
+
+-- If `coe_fn_coe_base` fires before `coe_comp`, `coe_comp'` puts us back in normal form.
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:240]: This comment no longer makes sense. At least a porting note saying so.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 8]
```diff
@@ -0,0 +1,297 @@
...
+  coe X := X.α
+
+instance : LargeCategory.{u} SemiNormedGroup₁ where
+  Hom X Y := { f : NormedAddGroupHom X Y // f.NormNoninc }
+  id X := ⟨NormedAddGroupHom.id X, NormedAddGroupHom.NormNoninc.id⟩
+  comp {X Y Z} f g := ⟨g.1.comp f.1, g.2.comp f.2⟩
+
+/-- Porting Note: Added-/
+instance {X Y : SemiNormedGroup₁} : CoeFun (X ⟶ Y) fun _ => X → Y where
+  coe (f : X ⟶ Y) := f.1
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:169]: Probably we want a `FunLike` instance on `X ⟶ Y`, rather than this coercion. Sorry, I've been meaning to think about all these concrete categories properly again, but am still uncertain about the right design. Would you mind trying out `FunLike` here, and reporting on zulip how it goes?

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 9]
```diff
@@ -0,0 +1,297 @@
...
+
+instance : Inhabited SemiNormedGroup₁ :=
+  ⟨of PUnit⟩
+
+instance ofUnique (V : Type u) [SeminormedAddCommGroup V] [i : Unique V] :
+    Unique (SemiNormedGroup₁.of V) :=
+  i
+#align SemiNormedGroup₁.of_unique SemiNormedGroup₁.ofUnique
+
+/--Porting Note: Had to fix double coercions in `zero_comp`-/
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:255]: Is this about the `change`? Perhaps move the porting note to that line, then.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 7 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:241]: I'm not sure what's going on here, but did as you suggested.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 8 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:169]: Should the same then apply earlier in lines 65-67?
```
/-- Porting Note: Added -- needed to make coe_id work-/
instance {X Y : SemiNormedGroup} : CoeFun (X ⟶ Y) fun _ => X → Y where
  coe (f : X ⟶ Y) := NormedAddGroupHom.toFun f`
  ```

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 6 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Thanks! I tried to add more detail.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 8 above)
Comment (semorrison) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:171]: Yes please!

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean [hunk 10]
```diff
@@ -0,0 +1,300 @@
...
+
+
+noncomputable section
+
+universe u
+
+open CategoryTheory
+
+/-- The category of seminormed abelian groups and bounded group homomorphisms. -/
+def SemiNormedGroup : Type (u + 1) :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:31]: I don't think we want to keep this name, it's way too similar to `SeminormedGroup` which means something quite different! Is the convention to add a `Cat` suffix?

Comment (eric-wieser) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean:31]: (the same comment applies to the filename)

Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Thanks, done! (Also renamed SemiNormedGroup_1 correspondingly)

File: Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean (hunk 8 above)
Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: Should the instances be named `funLike` or `FunLike_instance`? I also asked [here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/FunLike.20issues/near/365274729).

Comment (nick-kuhn) [reply Mathlib/Analysis/Normed/Group/SemiNormedGroup.lean]: I tried adding `FunLike` and `ZeroHomClass` instances for both `SemiNormedGroupCat` and `SemiNormedGroupCat₁`. Ready for review.

File: Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean [hunk 11]
```diff
@@ -0,0 +1,310 @@
...
+
+instance bundledHom : BundledHom @NormedAddGroupHom where
+  toFun := @NormedAddGroupHom.toFun
+  id := @NormedAddGroupHom.id
+  comp := @NormedAddGroupHom.comp
+#align SemiNormedGroup.bundled_hom SemiNormedGroupCat.bundledHom
+
+deriving instance LargeCategory for SemiNormedGroupCat
+
+--Porting note: deriving fails for ConcreteCategory, adding instance manually.
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean:46]:
```suggestion
-- Porting note: deriving fails for ConcreteCategory, adding instance manually.
-- See https://github.com/leanprover-community/mathlib4/issues/5020
```

File: Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean [hunk 12]
```diff
@@ -0,0 +1,310 @@
...
+
+/-- Construct a bundled `SemiNormedGroupCat` from the underlying type and typeclass. -/
+def of (M : Type u) [SeminormedAddCommGroup M] : SemiNormedGroupCat :=
+  Bundled.of M
+#align SemiNormedGroupCat.of SemiNormedGroupCat.of
+
+instance (M : SemiNormedGroupCat) : SeminormedAddCommGroup M :=
+  M.str
+
+-- Porting Note: Added -- needed to make coe_id work
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/SemiNormedGroupCat.lean:63]:
```suggestion
-- Porting Note: Added -- needed to make coe_id work
-- See https://github.com/leanprover-community/mathlib4/issues/5017
```

**Comment by semorrison** [comment]
@nick-kuhn, @Ruben-VandeVelde, I pushed quite a few changes to simplify the automation, and improved some instances.

Could you have a look and merge if at least one of you is happy, otherwise mark back as `awaiting-review`?

bors d+

**Review by Ruben-VandeVelde — APPROVED** [review]
Good to go, as far as I'm concerned

**Comment by nick-kuhn** [comment]
Looks good to me, too! 
bors r+
